US04661636
2.4 g (0.009 mol) of 2-aminomethyl-4-chloro-6methylsulfonylphenol hydrochloride are reacted with 1.6 g of urotropine in 18 ml of trifluoroacetic acid to give 2-formyl-4-chloro-6-methylsulfonylphenol in analogy to Example 1.

reactant | 2-aminomethyl-4-chloro-6methylsulfonylphenol hydrochloride | 0.009 mol, 2.4 g | Cl.NCC1=C(C(=CC(=C1)Cl)S(=O)(=O)C)O
reactant | urotropine | 1.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 18 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-formyl-4-chloro-6-methylsulfonylphenol | C(=O)C1=C(C(=CC(=C1)Cl)S(=O)(=O)C)O | C8H7ClO4S
